US09328067B2
2-(benzylthio)-5-chloroaniline
Following General Procedure A, the title compound (560 mg, 33%) was prepared from 2-amino-4-chlorobenzenethiol (1.08 g, 6.77 mmol), (bromomethyl)benzene (0.8 ml, 6.77 mmol) and K2CO3 (3.18 g, 23.04 mmol) in DMF (20 ml).

reactant | 2-amino-4-chlorobenzenethiol | 6.77 mmol, 1.08 g | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | (bromomethyl)benzene | 6.77 mmol, 0.8 ml | BrCC1=CC=CC=C1 | C7H7Br
reactant | K2CO3 | 23.04 mmol, 3.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(benzylthio)-5-chloroaniline | 560 mg, 33% | C(C1=CC=CC=C1)SC1=C(N)C=C(C=C1)Cl | C13H12ClNS
